US03974161
D. 7,8-Dimethoxypyrimido[4,5-b]Quinolin-4(3H)-One-2-Carboxylic Acid
Ethyl 7-methoxy-8-ethoxypyrimido[4,5-b]quinoline-4(3H)-one-2-carboxylate is similarly prepared according to procedures A-C, beginning with 3-methoxy-4-ethoxy-6-nitrobenzaldehyde. It melts at 264°-265°C. (dec.)

reactant | Ethyl 7-methoxy-8-ethoxypyrimido[4,5-b]quinoline-4(3H)-one-2-carboxylate | COC=1C=C2C=C3C(=NC2=CC1OCC)N=C(NC3=O)C(=O)OCC | C17H17N3O5
reactant | 3-methoxy-4-ethoxy-6-nitrobenzaldehyde | COC=1C=C(C=O)C(=CC1OCC)[N+](=O)[O-] | C10H11NO5
product | 7,8-Dimethoxypyrimido[4,5-b]Quinolin-4(3H)-One-2-Carboxylic Acid | COC=1C=C2C=C3C(=NC2=CC1OC)N=C(NC3=O)C(=O)O | C14H11N3O5
